US07504411B2
Methyl iodide (0.8 ml, 12.9 mmol) was added to a solution of 4-(3-pyridyl)benzaldehyde (0.78 g, 4.3 mmol) in dichloromethane and stirred 2 days. Additional methyl iodide (0.8 ml, 12.9 mmol) was added and stirred for 3 hr. After removal of the solvent, methanol was added to the residue and ice-cooled. Sodium tetrahydroborate (6.4 g, 17.0 mmol) was added to the solution and stirred for 1.5 hr with warming to room temperature. Organic solvents were removed under reduced pressure after addition of water and extracted with ethyl acetate, washed with water and brine and dried over sodium sulfate. After removal of the solvent under reduced pressure, residue was purified by silica gel chromatography (eluent ethyl acetate to methanol) to give 3-(4-hydroxymethylphenyl)-1-methyl-1,2,5,6-tetrahydropyridine (0.63 g, 72%).

reactant | Methyl iodide | 12.9 mmol, 0.8 ml | CI | CH3I
reactant | 4-(3-pyridyl)benzaldehyde | 4.3 mmol, 0.78 g | N1=CC(=CC=C1)C1=CC=C(C=O)C=C1 | C12H9NO
reactant | methyl iodide | 12.9 mmol, 0.8 ml | CI | CH3I
reactant | Sodium tetrahydroborate | 17.0 mmol, 6.4 g | [BH4-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(4-hydroxymethylphenyl)-1-methyl-1,2,5,6-tetrahydropyridine | 0.63 g, 72% | OCC1=CC=C(C=C1)C=1CN(CCC1)C | C13H17NO
